US08609647B2
(13) Optically-Active Compound of 3-[3-methyl-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]non-1-yl]-3-oxopropionitrile
An optically-active compound of 4-(3-methyl-1,6-diazaspiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine (1.8 g) was mixed with 1-cyanoacetyl-3,5-dimethylpyrazole (2.3 g), N,N-diisopropylethylamine (2.4 ml) and 1,4-dioxane (18 ml), and the mixture was stirred at 100° C. for 3 hours. The mixture was cooled to room temperature. Then, thereto were added water and saturated aqueous sodium chloride solution, and the mixture was extracted with ethyl acetate. The separated aqueous layer was extracted with chloroform, and the combined organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/ethyl acetate=1/1, followed by chloroform/methanol=20/1 to 10/1). The resulting residue was purified by silica gel column chromatography (eluent: chloroform/acetone=10/1 to 1/1) again. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/methanol=20/1 to 10/1) again to give the titled compound (1.8 g).

reactant | 4-(3-methyl-1,6-diazaspiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine | 1.8 g | CC1CNC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C14H19N5
reactant | 1-cyanoacetyl-3,5-dimethylpyrazole | 2.3 g | CC1=CC(=NN1C(=O)CC#N)C | C8H9N3O
reactant | N,N-diisopropylethylamine | 2.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
solvent | 1,4-dioxane | 18 ml | O1CCOCC1 | C4H8O2
product | 3-[3-methyl-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]non-1-yl]-3-oxopropionitrile | 1.8 g | CC1CN(C12CN(CCC2)C=2C1=C(N=CN2)NC=C1)C(CC#N)=O | C17H20N6O
